US03962227
A solution of 2.5 g. of p-methoxybenzyl 7-phenoxyacetamido-3-methylenecepham-4-carboxylate in 350 ml. of ethyl acetate was cooled in an acetone-dry ice bath. Ozone was bubbled through the cold solution for 8 minutes and then oxygen was passed through the ozonized reaction mixture to expel excess ozone. The intermediate ozonide was decomposed by adding to the reaction mixture 25 g. of sodium bisulfite with stirring at a temperature of about 0°C. The reaction solution was decanted and was washed successively with water, 5% hydrochloric acid and a saturated solution of sodium chloride. The washed mixture was dried and evaporated to yield the reaction product, p-methoxybenzyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate as an amorphous solid.

reactant | p-methoxybenzyl 7-phenoxyacetamido-3-methylenecepham-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)=C)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C24H24N2O6S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-methoxybenzyl 7-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C23H22N2O7S
